US07989442B2
To a solution of 4-bromo-3-fluorophenol (89 g, 465.9 mmol) in a mixture of CH2Cl2 (940 mL) and H2SO4 (52.1 mL, 978 mmol) at 0° C., HNO3 (65%) (32.9 ml, 468 mmol) was added dropwise (the mixture turned from colourless to black). The resulting mixture was stirred at 0 ° C. for 1 h and then poured into water. The organic layer was washed with brine, dried (Na2SO4) and the solvent was evaporated under reduced pressure to afford the crude compound which was purified by flash chromatography (SiO2, heptane/toluene 1:3) to give 4-bromo-5-fluoro-2-nitrophenol (49.5 g, 45%). 1H-NMR (400 MHz, CDCl3) 6.95 (d, J=9.0, 1H), 8.38 (d, J=6.2, 1H), 10.69 (s, 1H).

reactant | 4-bromo-3-fluorophenol | 465.9 mmol, 89 g | BrC1=C(C=C(C=C1)O)F | C6H4BrFO
reactant | H2SO4 | 978 mmol, 52.1 mL | OS(=O)(=O)O | H2O4S
reactant | HNO3 | 468 mmol, 32.9 ml | [N+](=O)(O)[O-] | HNO3
reactant | water | O | H2O
solvent | CH2Cl2 | 940 mL | C(Cl)Cl | CH2Cl2
product | 4-bromo-5-fluoro-2-nitrophenol | 49.5 g, 45% | BrC1=CC(=C(C=C1F)O)[N+](=O)[O-] | C6H3BrFNO3
